US06492364B1
To 1-acetyl-3-(diphenylhydroxymethyl)piperidine (500 mg), acetic anhydride (2 ml) was added and the mixture was stirred at 140° C. for 16 hours. After concentration of the reaction solution, 10 ml of methanol and 30 mg of 10% palladium-carbon were added, followed by stirring the mixture under hydrogen atmosphere for 17 hours. Palladium was removed by filtration through Celite and the filtrate was concentrated to obtain 250 mg of 1-acetyl-3-(diphenylmethyl)piperidine. Yield: 52%.

reactant | 1-acetyl-3-(diphenylhydroxymethyl)piperidine | 500 mg | C(C)(=O)N1CC(CCC1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H23NO2
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-carbon | 30 mg | [C].[Pd]
solvent | methanol | 10 ml | CO | CH4O
product | 1-acetyl-3-(diphenylmethyl)piperidine | 250 mg, Yield: 52% | C(C)(=O)N1CC(CCC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H23NO
